US04051252
Analogously to Example 1, 0.06 mol of 3-amino-4-trifluoromethylindazole in 50 ml of pyrocarbonic acid diethyl ester gives 3-amino-4-trifluoromethylindazole-2-carboxylic acid ethyl ester (melting point: 100°-101° C; 85% of theory) in 10 minutes at 20° C.

reactant | 3-amino-4-trifluoromethylindazole-2-carboxylic acid ethyl ester | C(C)OC(=O)N1N=C2C=CC=C(C2=C1N)C(F)(F)F | C11H10F3N3O2
solvent | pyrocarbonic acid diethyl ester | 50 ml | C(C)OC(=O)OC(=O)OCC | C6H10O5
product | 3-amino-4-trifluoromethylindazole | 0.06 mol | NC1=NNC2=CC=CC(=C12)C(F)(F)F | C8H6F3N3
